US08034812B2
Production of 4-methyl-N-[6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]piperazine-1-carboxamide
Using 2,2,2-trichloroethyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate (140 mg, 0.237 mmol), 1-methylpiperazine (40 μL, 0.356 mmol), N,N-diisopropylpropan-2-amine (123 μL, 0.713 mmol) and dimethyl sulfoxide (10 mL) as starting materials and in the same manner as in Example 386, the title compound (65 mg, 50%) was obtained as a pale-yellow powder.

reactant | 2,2,2-trichloroethyl [6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]carbamate | 0.237 mmol, 140 mg | FC(C=1C=C(C(=O)NC=2C=C(OC=3C=CC=4N(N3)C=C(N4)NC(OCC(Cl)(Cl)Cl)=O)C=CC2)C=CC1)(F)F | C23H15Cl3F3N5O4
reactant | 1-methylpiperazine | 0.356 mmol, 40 μL | CN1CCNCC1 | C5H12N2
reactant | N,N-diisopropylpropan-2-amine | 0.713 mmol, 123 μL | C(C)(C)N(C(C)C)C(C)C | C9H21N
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 4-methyl-N-[6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]piperazine-1-carboxamide | 65 mg, 50% | CN1CCN(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC2=CC(=CC=C2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C26H24F3N7O3
